** sch_path: /foss/designs/ChipAcharya/DSM/DSM_2ndOrder/1_Schematics/real_circuits/tb_otasimple_ac.sch
**.subckt tb_otasimple_ac
Vss v_ss GND 0
Vdd v_dd GND 1.5
Vin v_in v_ss dc 0.7 ac 0.8
.save v(v_in)
I0 v_dd net2 301.5e-06
C1 v_out v_ss 1p m=1
.save v(v_out)
Venable v_ena v_ss 1.5
x1 v_dd v_cm net1 v_out net2 v_ena v_ss ota1_simple
C2 net1 v_out 6p m=1
C3 v_in net1 1p m=1
Vdd1 v_cm GND 0.75
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt





.temp 27
.control
option sparse
save all

* ---------- AC analysis ----------
op
ac dec 101 1k 1G

* Make sure the current plot is the AC plot
setplot ac1
remzerovec

* Measurements on AC
meas ac dcgain MAX vmag(v_out) FROM=10 TO=10k
let f3db = dcgain/sqrt(2)
meas ac fbw WHEN vmag(v_out)=f3db FALL=1
let gainerror=(dcgain-1)/1
print dcgain
print fbw
print gainerror

* (optional) interactive plots inside ngspice
plot 20*log10(v_out)
plot 180/pi*ph(v_out) vs frequency

* Write ONLY the AC plot to this file
write tb_foldedcascode_nmos_2_ac.raw

* ---------- Noise analysis ----------
noise v(v_out) Vin dec 101 1k 100MEG
print onoise_total

* Make sure current plot is the noise plot
setplot noise1

* Write the noise plot to a separate file
write tb_foldedcascode_nmos_noise.raw

.endc


**** end user architecture code
**.ends

* expanding   symbol:  ota1_simple.sym # of pins=7
** sym_path: /foss/designs/ChipAcharya/DSM/DSM_2ndOrder/1_Schematics/real_circuits/ota1_simple.sym
** sch_path: /foss/designs/ChipAcharya/DSM/DSM_2ndOrder/1_Schematics/real_circuits/ota1_simple.sch
.subckt ota1_simple AVDD PLUS MINUS VOUT IBIAS D_ENA AVSS
*.opin VOUT
*.ipin MINUS
*.ipin PLUS
*.ipin AVSS
*.ipin IBIAS
*.ipin AVDD
*.ipin D_ENA
XM01 net9 PLUS net1 AVSS sg13_lv_nmos w=161.5u l=2u ng=17 m=1
XM02 net10 MINUS net1 AVSS sg13_lv_nmos w=161.5u l=2u ng=17 m=1
XMt net1 net6 AVSS AVSS sg13_lv_nmos w=38u l=1u ng=4 m=1
XM08 VOUT net2 net5 AVSS sg13_lv_nmos w=95u l=1.5u ng=10 m=1
XM07 net3 net2 net4 AVSS sg13_lv_nmos w=95u l=1.5u ng=10 m=1
XM03 net4 net3 AVSS AVSS sg13_lv_nmos w=95u l=1.5u ng=10 m=1
XM04 net5 net3 AVSS AVSS sg13_lv_nmos w=95u l=1.5u ng=10 m=1
XMb1 net11 net6 AVSS AVSS sg13_lv_nmos w=38u l=1u ng=4 m=1
XM05 net3 net7 net9 AVDD sg13_lv_pmos w=385u l=1.5u ng=39 m=1
XM06 VOUT net7 net10 AVDD sg13_lv_pmos w=385u l=1.5u ng=39 m=1
XM09 net9 net8 AVDD AVDD sg13_lv_pmos w=500u l=1.5u ng=50 m=1
XM10 net10 net8 AVDD AVDD sg13_lv_pmos w=500u l=1.5u ng=50 m=1
XMb IBIAS net6 AVSS AVSS sg13_lv_nmos w=38u l=1u ng=4 m=1
XMb2 net11 net3 net8 AVDD sg13_lv_pmos w=385u l=1.5u ng=39 m=1
XMb3 net8 net8 AVDD AVDD sg13_lv_pmos w=385u l=1.5u ng=39 m=1
XMb5 net7 net8 AVDD AVDD sg13_lv_pmos w=385u l=1.5u ng=39 m=1
XMb4 AVSS net3 net7 AVDD sg13_lv_pmos w=50u l=0.5u ng=5 m=1
XMb10 AVDD VOUT net2 AVSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XMb9 net2 net12 AVSS AVSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XMb7 net8 VOUT net12 AVSS sg13_lv_nmos w=95u l=1.5u ng=10 m=1
XMb8 net12 net12 AVSS AVSS sg13_lv_nmos w=95u l=1.5u ng=10 m=1
XMb6 net8 net8 AVDD AVDD sg13_lv_pmos w=500u l=1.5u ng=50 m=1
XMe5 IBIAS net14 net6 AVSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XMe2 net13 D_ENA AVSS AVSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XMe4 net14 net13 AVSS AVSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XMe6 net3 net13 AVSS AVSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XMe3 net14 net13 AVDD AVDD sg13_lv_pmos w=1u l=0.13u ng=1 m=1
XMe1 net13 D_ENA AVDD AVDD sg13_lv_pmos w=1u l=0.13u ng=1 m=1
.ends

.GLOBAL GND
.end
