** sch_path: /foss/designs/ChipAcharya/DSM/DSM_2ndOrder/1_Schematics/real_circuits/tb_ota1_loopgain.sch
**.subckt tb_ota1_loopgain
Vdd v_dd GND 3.3
Vss v_ss GND 0
Vin v_in v_ss dc 1.5
Venable v_ena v_ss 3.3
C2 vr1 v_ss 2p m=1
I1 v_dd net1 148u
Vtest1 vf1 vr1 dc 0 ac 1
C1 net2 v_ss 2p m=1
I2 v_dd net3 148u
Vir1 net2 net5 0
.save i(vir1)
Vif1 net5 net4 0
.save i(vif1)
Itest1 v_ss net5 dc 0 ac 1
C3 net6 v_ss 2p m=1
I3 v_dd net7 148u
C4 net8 v_ss 2p m=1
I4 v_dd net9 148u
Itest3 v_ss vmeas1 dc 0 ac 0
Vtest2 vmeas1 net10 dc 0 ac 1
Vimeas1 net6 net10 0
.save i(vimeas1)
Itest2 v_ss vmeas2 dc 0 ac 1
Vtest3 vmeas2 net11 dc 0 ac 0
Vimeas2 net8 net11 0
.save i(vimeas2)
x1 v_dd net7 net6 vmeas1 v_in v_ena v_ss OTA1
x2 v_dd net9 net8 vmeas2 v_in v_ena v_ss OTA1
x3 v_dd net1 vr1 vf1 v_in v_ena v_ss OTA1
x4 v_dd net3 net2 net4 v_in v_ena v_ss OTA1
**** begin user architecture code

.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ



.param temp=27
.options savecurrents reltol=1e-3 abstol=1e-12 gmin=1e-15
.control
save all

* Operating Point Analysis
op
remzerovec
write ota-improved_tb-loopgain.raw
set appendwrite

* AC Analysis
ac dec 101 1 100G
remzerovec
write ota-improved_tb-loopgain.raw
set appendwrite

* Middlebrook's Method
let tv=-v(vr1)/v(vf1)
let ti=-i(vir1)/i(vif1)
let tmb=(tv*ti - 1)/(tv + ti + 2)

plot db(tmb) ylabel 'Magnitude - Middlebrook'
plot 180/pi*cphase(tmb) ylabel 'Phase - Middlebrook'

* Tian's Method
* vtest=0, itest=1:
let A=i(Vimeas2)
let C=v(vmeas2)

* vtest=1, itest=0:
let B=i(Vimeas1)
let D=v(vmeas1)
let ttian=(A*D-B*C-A)/(2*(B*C-A*D)+A-D+1)

plot db(ttian) ylabel 'Magnitude - Tian'
plot 180/pi*cphase(ttian) ylabel 'Phase - Tian'

* Middlebrook vs. Tian
plot db(tmb) db(ttian) ylabel 'Magnitude'
plot 180/pi*cphase(tmb) 180/pi*cphase(ttian) ylabel 'Phase'

write ota-improved_tb-loopgain.raw

*quit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  OTA1.sym # of pins=7
** sym_path: /foss/designs/ChipAcharya/DSM/DSM_2ndOrder/1_Schematics/real_circuits/OTA1.sym
** sch_path: /foss/designs/ChipAcharya/DSM/DSM_2ndOrder/1_Schematics/real_circuits/OTA1.sch
.subckt OTA1 AVDD IBIAS VOUT MINUS PLUS D_ENA AVSS
*.ipin AVSS
*.ipin IBIAS
*.ipin AVDD
*.ipin PLUS
*.ipin MINUS
*.opin VOUT
*.ipin D_ENA
XM23 IBIAS net3 AVSS AVSS sg13_hv_nmos w=13.8u l=1u ng=2 m=1
XM25 IBIAS net2 net3 AVSS sg13_hv_nmos w=1u l=0.5u ng=1 m=1
XM24 net10 net3 AVSS AVSS sg13_hv_nmos w=13.8u l=1u ng=2 m=1
XM19 net10 net5 net4 AVDD sg13_hv_pmos w=42.5u l=1u ng=10 m=1
XM20 net4 net4 AVDD AVDD sg13_hv_pmos w=42.5u l=1u ng=10 m=1
XM21 AVSS net5 net8 AVDD sg13_hv_pmos w=100u l=0.5u ng=10 m=1
XM22 net8 net4 AVDD AVDD sg13_hv_pmos w=42.5u l=1u ng=10 m=1
XM26 net7 net4 AVDD AVDD sg13_hv_pmos w=85.5u l=1u ng=10 m=1
XM27 net5 net8 net7 AVDD sg13_hv_pmos w=42.5u l=1u ng=10 m=1
XM28 net5 net15 net6 AVSS sg13_hv_nmos w=12u l=1u ng=2 m=1
XM29 net6 net5 AVSS AVSS sg13_hv_nmos w=12.5u l=1u ng=2 m=1
XM30 net9 net3 AVSS AVSS sg13_hv_nmos w=14u l=1u ng=2 m=1
XM31 net7 PLUS net9 AVSS sg13_hv_nmos w=14.5u l=0.8u ng=2 m=1
XM32 net11 MINUS net9 AVSS sg13_hv_nmos w=14.5u l=0.8u ng=2 m=1
XM42 AVDD net4 AVDD AVDD sg13_hv_pmos w=12u l=0.5u ng=4 m=1
XM41 AVDD net8 AVDD AVDD sg13_hv_pmos w=12u l=0.5u ng=4 m=1
XM38 AVSS net3 AVSS AVSS sg13_hv_nmos w=8u l=1u ng=4 m=1
XM33 net1 D_ENA AVDD AVDD sg13_hv_pmos w=1u l=0.5u ng=1 m=1
XM34 net2 net1 AVDD AVDD sg13_hv_pmos w=1u l=0.5u ng=1 m=1
XM35 net1 D_ENA AVSS AVSS sg13_hv_nmos w=1u l=0.5u ng=1 m=1
XM36 net2 net1 AVSS AVSS sg13_hv_nmos w=1u l=0.5u ng=1 m=1
XM37 net11 AVSS AVSS AVSS sg13_hv_nmos w=14.5u l=0.8u ng=2 m=1
XM39 VOUT net8 net11 AVDD sg13_hv_pmos w=42.5u l=1u ng=10 m=1
XM40 net11 net4 AVDD AVDD sg13_hv_pmos w=85.5u l=1u ng=10 m=1
XM43 VOUT net15 net12 AVSS sg13_hv_nmos w=12u l=1u ng=2 m=1
XM44 net12 net5 AVSS AVSS sg13_hv_nmos w=12.5u l=1u ng=2 m=1
XM45 net12 AVSS AVSS AVSS sg13_hv_nmos w=12.5u l=1u ng=2 m=1
XM46 VOUT AVSS AVSS AVSS sg13_hv_nmos w=12u l=1u ng=2 m=1
XM47 net11 AVDD AVDD AVDD sg13_hv_pmos w=85.5u l=1u ng=10 m=1
XM48 VOUT AVDD AVDD AVDD sg13_hv_pmos w=42.5u l=1u ng=10 m=1
XM49 net13 net4 AVDD AVDD sg13_hv_pmos w=85.5u l=1u ng=10 m=1
XM50 net13 VOUT net14 AVSS sg13_hv_nmos w=12u l=1u ng=2 m=1
XM51 net14 net14 AVSS AVSS sg13_hv_nmos w=12u l=1u ng=2 m=1
XM52 net15 net14 AVSS AVSS sg13_hv_nmos w=12u l=1u ng=2 m=1
XM53 AVDD VOUT net15 AVSS sg13_hv_nmos w=100u l=0.5u ng=10 m=1
XM54 AVSS net15 AVSS AVSS sg13_hv_nmos w=8u l=1u ng=4 m=1
XM55 net5 net1 AVSS AVSS sg13_hv_nmos w=1u l=0.5u ng=1 m=1
XM56 net7 AVSS AVSS AVSS sg13_hv_nmos w=14.5u l=0.8u ng=2 m=1
XM57 net5 AVDD AVDD AVDD sg13_hv_pmos w=42.5u l=1u ng=10 m=1
XM58 net6 AVSS AVSS AVSS sg13_hv_nmos w=12.5u l=1u ng=2 m=1
XM59 net5 AVSS AVSS AVSS sg13_hv_nmos w=12u l=1u ng=2 m=1
XM60 net4 AVDD AVDD AVDD sg13_hv_pmos w=42.5u l=1u ng=10 m=1
XM61 net14 AVSS AVSS AVSS sg13_hv_nmos w=12u l=1u ng=2 m=1
.ends

.GLOBAL GND
.end
