** sch_path: /foss/designs/drms-elie3/3_real_circuits/clk_gen_tb.sch
**.subckt clk_gen_tb
VDD VDD GND {Vdd}
VCK clk GND PULSE(0 3 10n 1n 1n 500n 1000n)
x1 phi1 phi1_d clk phi2 phi2_d clk_gen
**** begin user architecture code


.param Vdd=3




.option temp=27

.control
option sparse
save all
tran 1n 3000n
write clk_gen_tb.raw
plot v(clk)
plot v(phi1) v(phi2)
plot v(phi1_d) v(phi2_d)
plot v(phi1)*v(phi2)
.endc



.lib cornerMOShv.lib mos_tt

**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/drms-elie3/3_real_circuits/clk_gen.sym # of pins=5
** sym_path: /foss/designs/drms-elie3/3_real_circuits/clk_gen.sym
** sch_path: /foss/designs/drms-elie3/3_real_circuits/clk_gen.sch
.subckt clk_gen phi1 phi1_d CK phi2 phi2_d
*.ipin CK
*.opin phi1
*.opin phi1_d
*.opin phi2_d
*.opin phi2
xn1 net8 CK net1 VDD VSS sg13g2_nand2_2
xi3 net9 net8 VDD VSS sg13g2_inv_4
xi1 net11 net9 VDD VSS sg13g2_inv_4
xi2 phi2_d net1 VDD VSS sg13g2_inv_4
xi4 phi1_d net2 VDD VSS sg13g2_inv_4
xi5 net13 net12 VDD VSS sg13g2_inv_4
xi6 net3 CK VDD VSS sg13g2_inv_4
xi7 net6 net4 VDD VSS sg13g2_inv_4
xi8 net7 net6 VDD VSS sg13g2_inv_4
xn2 net4 net2 net3 VDD VSS sg13g2_nand2_2
xn3 net5 net7 net4 VDD VSS sg13g2_nand2_2
xn4 net10 net8 net11 VDD VSS sg13g2_nand2_2
x1 net9 phi1 buffer
x2 net10 phi1_d buffer
x3 net5 phi2_d buffer
x4 net6 phi2 buffer
.ends


* expanding   symbol:  /foss/designs/drms-elie3/3_real_circuits/buffer.sym # of pins=2
** sym_path: /foss/designs/drms-elie3/3_real_circuits/buffer.sym
** sch_path: /foss/designs/drms-elie3/3_real_circuits/buffer.sch
.subckt buffer A X
*.ipin A
*.opin X
XM2 net1 A GND GND sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
XM1 net1 A VDD VDD sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1
XM3 X net1 GND GND sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
XM4 X net1 VDD VDD sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1
.ends

.GLOBAL VDD
.GLOBAL GND
.end
